US07635715B2
Step J: Preparation of t-butyl-N-((8-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate
A mixture of ethyl 8-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-carboxylate (0.27 g, 0.80 mmol), and tert-butyl 2-aminoacetate hydrochloride (0.20 g, 1.2 mmol) in 1 mL dioxane was treated with N-ethyl-N-isopropylpropan-2-amine (0.26 g, 2.0 mmol). The mixture was warmed to 100° C. and stirred for 2.5 hours. The mixture was then cooled to room temperature, diluted with 20 mL H2O and 100 mL EtOAc. The organic layer was separated, dried over anhydrous sodium sulfate and concentrated. The concentrate was purified by column chromatography (10-20% EtOAc/hexane) to give 0.13 g off-white solid. MS m/e: (M+H)+ 422.

reactant | ethyl 8-chloro-4-hydroxy-2-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-carboxylate | 0.80 mmol, 0.27 g | ClC=1C=CC=C2C(C(C(C3(CCOCC3)C12)=O)C(=O)OCC)O | C17H19ClO5
reactant | tert-butyl 2-aminoacetate hydrochloride | 1.2 mmol, 0.20 g | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 2.0 mmol, 0.26 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 20 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | t-butyl-N-((8-chloro-2-hydroxy-4-oxo-2′,3′,5′,6′-tetrahydro-4H-spiro[naphthalene-1,4′-pyran]-3-yl)carbonyl)glycinate | 0.13 g | C(C)(C)(C)OC(CNC(=O)C1=C(C2(CCOCC2)C2=C(C=CC=C2C1=O)Cl)O)=O | C21H24ClNO6
